US04792561
A solution of 9.0 g of 6-(chloroacetyl)-3,4-dihydrocarbostyril and 13.4 g of imidazole in 40 ml of N,N-dimethylformamide was heated at 80° C. for 18 hours. The reaction mixture was diluted with 1000 ml of water and the precipitate filtered off, washed with water followed by a little acetone and dried under vacuum to afford 6-[(imidazol-1-yl)acetyl]-3,4-dihydrocarbostyril, having a melting point of 269°-273° C.

reactant | 6-(chloroacetyl)-3,4-dihydrocarbostyril | 9.0 g | ClCC(=O)C=1C=C2CCC(NC2=CC1)=O | C11H10ClNO2
reactant | imidazole | 13.4 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 1000 ml | O | H2O
product | 6-[(imidazol-1-yl)acetyl]-3,4-dihydrocarbostyril | N1(C=NC=C1)CC(=O)C=1C=C2CCC(NC2=CC1)=O | C14H13N3O2
